* Z:\mnt\design.r\spice\examples\2067.asc
R1 OUT N001 1Meg
R2 N001 0 10K
R3 N004 N003 10K
R4 N003 0 100m
R5 N002 N003 {5/Iload}
V2 N002 0 5
V3 +V 0 3.3
XU1 N004 N001 +V 0 OUT +V LTC2066
.op
.step dec param Iload .1m 250m 2
.lib LTC5.lib
.backanno
.end
